US06887896B1
1-(4-Bromo-3-hydroxy-5,5-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone (Compound A-91)
To a solution of 1-(3-hydroxy-5,5-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone (Compound A-88, 13.3 g, 61 mmol) in N,N-dimethylformamide (120 mL) was added N-bromosuccinimide (10.9 mg, 61 mmol). The mixture was stirred at room temperature for 16 h. The mixture was then diluted with water and extracted with diethyl ether. The combined ethereal layers were washed with water, brine, dried (Na2SO4), filtered and concentrated in vacuo. Recrystallization from diethyl ether and flash column chromatography (silica gel, 5% ethyl acetate in hexane) afforded the title compound as a yellow solid.

reactant | 1-(3-hydroxy-5,5-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone | OC=1C(=CC=2CCCC(C2C1)(C)C)C(C)=O | C14H18O2
reactant | N-bromosuccinimide | 61 mmol, 10.9 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-(4-Bromo-3-hydroxy-5,5-dimethyl-5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone | BrC1=C(C(=CC=2CCCC(C12)(C)C)C(C)=O)O | C14H17BrO2
